US07713982B2
a) 8-chloro-3-pentyl-7-(2-propen-1-yl)-3,7-dihydro-1H-purine-2,6-dione
To a solution of 8-chloro-7-(2-propen-1-yl)-3,7-dihydro-1H-purine-2,6-dione (100 mg, 0.44 mmol) in anhydrous DMF (3 ml) was added sodium carbonate (0.051 g, 0.484 mmol). After 10 minutes stirring at room temperature pentyl iodide (0.063 ml, 0.484 mmol) was added and stirring continued under nitrogen at room temperature for 18 hours. The reaction mixture was diluted with water (25 ml) and extracted with EtOAc (2×25 ml). The combined organic extracts were dried (MgSO4) filtered and evaporated. Purification by SPE (Si, 5 g) eluting with 4:1 EtOAc/cyclohexane afforded the title compound as a white solid (96 mg, 74%); m/z 297.2[MH+].

reactant | 8-chloro-7-(2-propen-1-yl)-3,7-dihydro-1H-purine-2,6-dione | 0.44 mmol, 100 mg | ClC1=NC=2NC(NC(C2N1CC=C)=O)=O | C8H7ClN4O2
reactant | sodium carbonate | 0.484 mmol, 0.051 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | pentyl iodide | 0.484 mmol, 0.063 ml | C(CCCC)I | C5H11I
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | water | 25 ml | O | H2O
product | 8-chloro-3-pentyl-7-(2-propen-1-yl)-3,7-dihydro-1H-purine-2,6-dione | 96 mg, 74% | ClC1=NC=2N(C(NC(C2N1CC=C)=O)=O)CCCCC | C13H17ClN4O2
